US06740682B2
By solution phase srategy: Typically 3-cyanobenzoic acid is activated with carbonyl-diimidazole and reacted with R-phenylglycinol to give 3-cyanobenzoylphenylglycinol. Reaction with a trichloroacetimidate and BF3 etherate, (4), gives an ether. Reaction of the cyano group with HCl in ethanol followed by ammonia in ethanol gives the amidino compound.

reactant | 3-cyanobenzoic acid | C(#N)C=1C=C(C(=O)O)C=CC1 | C8H5NO2
reactant | carbonyl-diimidazole | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | R-phenylglycinol | C1=CC=C(C=C1)[C@H](CO)N | C8H11NO
product | 3-cyanobenzoylphenylglycinol | C(#N)C=1C=C(C(=O)N(CCO)C2=CC=CC=C2)C=CC1 | C16H14N2O2
